US09233985B2
While under nitrogen, a flame-dried flask was charged with 2-(tert-butoxycarbonyl)-7-chloro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (400 mg, 1.28 mmol) and anhydrous THF (2.5 mL), cooled in an ice-saturated aqueous sodium chloride bath and carefully treated with a solution of borane in THF (1 M, 2.63 mL, 2.63 mmol). The resulting mixture was stirred at 0° C. for ˜1.5 h and then at room temperature overnight. The mixture was then cooled in an ice-water bath, quenched slowly by the dropwise addition of water until most gas evolution ceased, diluted with additional water (15 mL) and extracted with ethyl acetate (2×25 mL). The combined organic phase was washed with saturated aqueous NaHCO3 (10 mL), water (10 mL) and saturated aqueous sodium chloride (10 mL), dried over Na2SO4 and concentrated under reduced. Purification by silica gel chromatography (40 g column, 10-20% ethyl acetate in methylene chloride) gave tert-butyl 7-chloro-3-(hydroxymethyl)-3,4-dihydroisoquinoline-2(1 H)-carboxylate (292 mg, 76%) as a clear gum. 1H NMR (DMSO-d6, 400 MHz) δ 7.29 (m, 1 H), 7.20 (m, 2 H), 4.81 (m, 1 H), 4.64 (d, J=17 Hz, 1 H), 4.20 (bm, 2 H), 3.30 (m, 1 H), 3.12 (m, 1 H), 2.84 (m, 2 H), 1.43 (s, 9 H).

reactant | 2-(tert-butoxycarbonyl)-7-chloro-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 1.28 mmol, 400 mg | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1C(=O)O)Cl | C15H18ClNO4
reactant | borane | B | BH3
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.63 mmol, 1 M, 2.63 mL | C1CCOC1 | C4H8O
product | tert-butyl 7-chloro-3-(hydroxymethyl)-3,4-dihydroisoquinoline-2(1 H)-carboxylate | 292 mg, 76% | ClC1=CC=C2CC(N(CC2=C1)C(=O)OC(C)(C)C)CO | C15H20ClNO3
